US03931139
a. Z-Pro-n-hexyl amide
50 g (0.1 mol) of Z-Pro-OH were dissolved in 400 ml of anhydrous tetrahydrofuran, 28 ml of triethyl amide were added. The mixture was cooled to -10° and then 19.5 ml (0.2 mol) of chloroformic acid ethyl ester were added dropwise. After stirring for 10 minutes at -10°C, 96 ml (1 mol) of n-hexyl amine were added portionwise at this temperature, and the whole was stirred for another 6 hours without cooling. Subsequently it was evaporated under reduced pressure and taken up with ethyl acetate. The ethyl acetate solution was extracted with a 5 % KHSO4 -solution, saturated NaHCO3 -solution and water. After evaporating the ethyl acetate solution, dried over sodium sulfate, the product was crystallized.

reactant | Z-Pro-OH | 0.1 mol, 50 g | N1([C@H](C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1 | C13H15NO4
reactant | chloroformic acid ethyl ester | 0.2 mol, 19.5 ml | C(C)OC(=O)Cl | C3H5ClO2
reactant | n-hexyl amine | 1 mol, 96 ml | C(CCCCC)N | C6H15N
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | Z-Pro n-hexyl amide | N1([C@H](C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1.C(CCCCC)[NH-] | InChI=1S/C13H15NO4.C6H14N/c15-12(16)11-7-4-8-14(11)13(17)18-9-10-5-2-1-3-6-10;1-2-3-4-5-6-7/h1-3,5-6,11H,4,7-9H2,(H,15,16);7H,2-6H2,1H3/q;-1/t11-;/m0./s1
